US05073659
In a similar manner to that described in Example 1, a tetrahydrofuran solution of 3,7-dimethyloctylmagnesium bromide was prepared from 6.64 g (0.03 mol) of 3,7-dimethyloctyl bromide, 0.73 g of metallic magnesium, 40 ml of tetrahydrofuran and 3 droplets of ethylene bromide and converted into a tetrahydrofuran solution of 3,7-dimethyloctylzinc chloride by the addition of 4.08 g (0.03 mol) of anhydrous zinc chloride. The subsequent step was conducted with this solution, 0.2 g (0.001 mol) of CuBr·(CH3)2S and 4.4 g (0.02 mol) of 6-chloro-7-methylene-3-methyl-1-octen-3-yl acetate in a similar manner to that described in Example 20 to give 4.1 g of the objective compound as a colorless liquid (yield: 61.2%).

reactant | 3,7-dimethyloctyl bromide | 0.03 mol, 6.64 g | CC(CCBr)CCCC(C)C | C10H21Br
reactant | magnesium | 0.73 g | [Mg] | Mg
reactant | ethylene bromide | C(CBr)Br | C2H4Br2
reactant | 3,7-dimethyloctylzinc chloride | [Cl-].CC(CC[Zn+])CCCC(C)C
reactant | 6-chloro-7-methylene-3-methyl-1-octen-3-yl acetate | 0.02 mol, 4.4 g | C(C)(=O)OC(C=C)(CCC(C(C)=C)Cl)C | C12H19ClO2
catalyst | zinc chloride | 0.03 mol, 4.08 g | [Cl-].[Zn+2].[Cl-]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 3,7-dimethyloctylmagnesium bromide | CC(CC[Mg]Br)CCCC(C)C | InChI=1S/C10H21.BrH.Mg/c1-5-10(4)8-6-7-9(2)3;;/h9-10H,1,5-8H2,2-4H3;1H;/q;;+1/p-1
